US06677349B1
Using the general method of Example 239 Part B except that chloroform was used instead of dichloromethane, 1-(4-aminobutyl)-2-(cyclopropylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.2 mmol) was reacted with methanesulfonic anhydride (1.29 g, 7.4 mmol) to provide 0.42 g of N-{4-[4-amino-2-(cyclopropylmethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide as a brown solid, m.p. 199.7-200.7° C.

reactant | 1-(4-aminobutyl)-2-(cyclopropylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.2 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC2CC2 | C18H23N5
reactant | methanesulfonic anhydride | 7.4 mmol, 1.29 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[4-amino-2-(cyclopropylmethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide | 0.42 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CC2CC2 | C19H25N5O2S
